US06093710
A mixture of 2-amidino-6-ethoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene hydrochloride (1.15 g), and 6 N HCl (10 ml) was stirred at 70° C. for 9 hours. The resulting precipitate was washed with Et2O to give 2-amidino-6-carboxy-4,3,6,7-tetrahydrobenzo[b]thiophene hydrochloride (0.96 g).

reactant | 2-amidino-6-ethoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene hydrochloride | 1.15 g | Cl.C(N)(=N)C1=CC2=C(S1)CC(CC2)C(=O)OCC
solvent | HCl | 6 N, 10 ml | Cl | ClH
product | 2-amidino-6-carboxy-4,3,6,7-tetrahydrobenzo[b]thiophene hydrochloride | 0.96 g | Cl.C(N)(=N)C1CC2=C(S1)CC(CC2)C(=O)O | InChI=1S/C10H14N2O2S.ClH/c11-9(12)8-3-5-1-2-6(10(13)14)4-7(5)15-8;/h6,8H,1-4H2,(H3,11,12)(H,13,14);1H
